US06319922B1
2-Chloro-4-benzyl pyrimidine
The title compound (quantitiative yield) was prepared from benzyl bromide (1.71 g, 1.19 ml, 10 mmol) and 2,4-dichloropyrimidine (1.49 g, 10 mmol) in a similar manner to Intermediate 2, and was used without purification.

reactant | benzyl bromide | 10 mmol, 1.19 ml, 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2,4-dichloropyrimidine | 10 mmol, 1.49 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 2-Chloro-4-benzyl pyrimidine | ClC1=NC=CC(=N1)CC1=CC=CC=C1 | C11H9ClN2
